US05466689
Trans-4,6,6a,7,9,10a-hexahydro-7-ethyl-1-methoxy-10a-methyl-indolo[3,4-gh][1.4]benzoxazin-8-one
To a solution of 3,4-dihydro-4-ethylamino-5-hydroxy-6-methoxy-5-methyl-5H-benz[cd]indole (646 mg 2.48 mmol) in ethyl acetate (25 ml) was added a saturated aqueous solution of sodium carbonate (24 ml). To the mixture was added, while stirring vigorously, chloroacetyl chloride (1.2 equivalent). After completion of the reaction, the organic layer was separated and washed with an aqueous saline solution, followed by drying (anhydrous Na2SO4). The solvent was distilled off under reduced pressure. The residue was cyclized and, then, purified by means of silica gel column chromatography (eluting with n-hexane-ethyl acetate (2:7)) to afford 517 mg (72%) of the title compound as an amorphous crystalline product.

reactant | 3,4-dihydro-4-ethylamino-5-hydroxy-6-methoxy-5-methyl-5H-benz[cd]indole | 2.48 mmol, 646 mg | C(C)NC1C(C=2C=3C(=CNC3C=CC2OC)C1)(C)O | C15H20N2O2
reactant | sodium carbonate | 24 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroacetyl chloride | 1.2 equivalent | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | Trans-4,6,6a,7,9,10a-hexahydro-7-ethyl-1-methoxy-10a-methyl-indolo[3,4-gh][1.4]benzoxazin-8-one | 517 mg, 72% | C(C)N1C(CO[C@]2([C@H]1CC=1C3=C2C(=CC=C3NC1)OC)C)=O | C17H20N2O3
